US08685974B2
To a suspension of 1-(5-chloro-2-thienyl)-2-[2-(isopropylamino)pyrimidin-4-yl]ethanon (1 eq, 13.5 mmol) in 6 mL N,N-dimethylformamide, was added of N,N-dimethylformamide dimethyl acetal (3.4 eq, 46 mmol). The mixture was stirred at 100° C. for 2 h and then allowed to cool to room temperature. The solvent was evaporated to afford 4.5 g (95% yield) of 3-(dimethylamino)-1-(5-chloro-2-thienyl)-2-[2-(isopropylamino)pyrimidin-4-yl]prop-2-en-1-one which was used in the next step without further purification.

reactant | 1-(5-chloro-2-thienyl)-2-[2-(isopropylamino)pyrimidin-4-yl]ethanon | 13.5 mmol, 1 eq | ClC1=CC=C(S1)C(CC1=NC(=NC=C1)NC(C)C)=O | C13H14ClN3OS
reactant | N,N-dimethylformamide dimethyl acetal | 46 mmol, 3.4 eq | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 3-(dimethylamino)-1-(5-chloro-2-thienyl)-2-[2-(isopropylamino)pyrimidin-4-yl]prop-2-en-1-one | 4.5 g, 95% yield | CN(C=C(C(=O)C=1SC(=CC1)Cl)C1=NC(=NC=C1)NC(C)C)C | C16H19ClN4OS
